US06900215B2
Triethylsilyl trifluoromethanesulfonate (4.85 ml, 21.5 mmol) was added dropwise over 15 min to a cooled (−50° C.) solution of 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (5.0 g, 19.5 mmol) and N,N-diisopropylethylamine (4.76 ml, 27.5 mmol) in dichloromethane (150 ml). The mixture was stirred at −50° C. for 20 min then allowed to warm to ambient temperature over 10 h. The reaction mixture was diluted with dichloromethane (100 ml) and washed with 1N hydrochloric acid (100 ml) and water (100 ml), dried over anhydrous magnesium sulfate, filtered and evaporated. The resulting red oil was purified by dry flash column chromatography on silica eluting with dichloromethane on a gradient of methanol (0-3%) to give 3-bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine as a pale yellow oil which crystallised on standing (6.21 g, 86%): δH (400 MHz, CDCl3) 0.64 (6H, q, J 8), 0.97 (9H, t, J 8), 7.50 (1H, d, J 7), 7.72 (1H, s), 8.35 (1H, d, J 7), 10.36 (1H, d, J 7); m/z (ES+) 358 (M++H).

reactant | Triethylsilyl trifluoromethanesulfonate | 21.5 mmol, 4.85 ml | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 19.5 mmol, 5.0 g | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | N,N-diisopropylethylamine | 27.5 mmol, 4.76 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C15H24BrN3OSi
